US05847182
To a 100 ml, three-necked, frame dried, round bottom flask equipped with a magnetic stirrer, a reflux condenser, and a dropping funnel, aluminum chloride 1.43 g (10.7 mmol) and biphenyl 16.5 g (107 mmol) were placed under dry nitrogen atmospheric pressure. After (dichloromethyl)methyldichlorosilane 7.50 ml (53.5 mmol) was added to the solution, the reaction mixture was heated for 2.5 hrs. at 120° C. The aluminum chloride catalyst was quenched with POCl3 1.04 ml (11.2 mmol) and then stirred for another 1 hr. to complete the deactivation. Freshly distilled hexane (100 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic solution. After hexane was distilled, the reaction products were vacuum distilled at 0.2 torr to give 8.79 g of 9-(methyldichlorosilyl)fluorene (bp; 115°-120° C./0.2 torr, yield; 59%).

reactant | aluminum chloride | 10.7 mmol, 1.43 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | biphenyl | 107 mmol, 16.5 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | (dichloromethyl)methyldichlorosilane | 53.5 mmol, 7.50 ml | ClC(Cl)[Si](Cl)(Cl)C | C2H4Cl4Si
reactant | POCl3 | 11.2 mmol, 1.04 ml | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 9-(methyldichlorosilyl)fluorene | 8.79 g, yield; 59% | C[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(Cl)Cl | C14H12Cl2Si
